US05143928
5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-[hydroxy(1-methylethyl)amino]-4(5H)-thiazolone, (Z)-
A mixture of N-isopropylhydroxylamine hydrochloride (5.5 g, 0.049 mole), potassium-t-butoxide (4.83 g, 0.043 mole), and ethanol (500 mL) is stirred at room temperature for 15 minutes. 5-[(3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl)methylene]-2-(methylthio)-4(5H)-thiazolone (7.27 g, 0.02 mole) is then added and the mixture is refluxed with stirring for six hours. After removal of the solvent under reduced pressure, the cooled reaction mixture is poured into a mixture of ice-water containing 1N hydrochloric acid and extracted with ether. The organic layer is washed with water, dried, and the solvent is evaporated to give 7.7 g of a residue. The residue is flash chromatographed on silica gel (202 g), eluting first with methylene chloride and then with methylene chloride-methanol (9:1) to give 7.0 g purified product. It is recrystallized from methylene chloride-ethyl acetate-ether to give 4.2 g (54%) of pure 5-[[3,5-Bis-(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-[hydroxy(1-methylethyl)amino]-4(5H)-thiazolidinone, (Z)-, mp 208° C. (dec).

reactant | N-isopropylhydroxylamine hydrochloride | 0.049 mole, 5.5 g | Cl.C(C)(C)NO
reactant | potassium-t-butoxide | 0.043 mole, 4.83 g | CC(C)([O-])C.[K+]
reactant | 5-[(3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl)methylene]-2-(methylthio)-4(5H)-thiazolone | 0.02 mole, 7.27 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N=C(S1)SC)=O | C19H25NO2S2
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 5-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-2-[hydroxy(1-methylethyl)amino]-4(5H)-thiazolone | 7.7 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N=C(S1)N(C(C)C)O)=O | C21H30N2O3S
